US05650428
Dihydropyran (2.27 ml) and p-toluenesulfonic acid (500 mg) were added to a suspension of N-benzyloxycarbonyl-DL-serine (5 g) in chloroform, and the mixture was stirred at room temperature overnight under argon. Triethylamine (11.65 ml), ethyl p-aminophenylacetate hydrochloride (4.5 g) and 2-chloro-1-methylpyridinium iodide (6.4 g) were added to the reaction mixture and the whole was refluxed for 3 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with 1N HCl, 5% NaHCO3, and saturated saline solution, and dried over Na2SO4. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel=300 g, hexane/ethyl acetate=20/9) to obtain (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide (6.847 g).

reactant | Dihydropyran | 2.27 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-benzyloxycarbonyl-DL-serine | 5 g | C(C1=CC=CC=C1)OC(=O)NC(CO)C(=O)O | C11H13NO5
reactant | ethyl p-aminophenylacetate hydrochloride | 4.5 g | Cl.NC1=CC=C(C=C1)CC(=O)OCC
reactant | 2-chloro-1-methylpyridinium iodide | 6.4 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Triethylamine | 11.65 ml | C(C)N(CC)CC | C6H15N
product | (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 6.847 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1OCCCC1 | C26H32N2O7
